US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[Cis-5-ethyl-4,5,6,7-tetrahydro-1-benzothien-4-yl]pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting cis-5-ethyl-4,5,6,7-tetrahydro-1-benzothiophen-4-amine and 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ; 7.50, 7.32, 7.08, 6.98, 5.77, 4.42, 2.99, 2.95, 2.62, 2.50, 1.98, 1.73, 1.39-1.18, 1.00; HRMS (FAB) calcd for C24H27Cl2N3S+H 460.1381, found 460.1376.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | cis-5-ethyl-4,5,6,7-tetrahydro-1-benzothiophen-4-amine | C(C)[C@H]1CCC2=C(C=CS2)[C@H]1N | C10H15NS
reactant | 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine | BrC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C14H13BrCl2N2
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[Cis-5-ethyl-4,5,6,7-tetrahydro-1-benzothien-4-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CCC2=C1C=CS2)CC)CC | C24H27Cl2N3S
